US06559149B1
Synthesis of 4-Methylamino-3-trifluoromethylbenzoic Acid
4-amino-3-trifluoromethylbenzoic acid (3.6 g) was suspended in trifluoroacetic anhydride (90 ml) and the suspension was stirred overnight. The solvent was distilled off under vacuum and the resulting residue was dissolved in acetone (30 ml). Methyl iodide (9.9 g) was added to the solution and the mixture was heated to 45° C.; with vigorous stirring, a potassium hydroxide powder (6.8 g) was added slowly, followed by further stirring for 1 h at 45° C. Then, the solvent was distilled off under vacuum and the resulting residue was dissolved in water (50 ml). The solution was heated under reflux for 2 h. The reaction solution was then adjusted to pH of 3.5 with 1N HCl under cooling with ice. The white precipitate was recovered by filtration and washed with a small amount of water and vacuum-dried to yield the end product (2.2 g).

reactant | 4-amino-3-trifluoromethylbenzoic acid | 3.6 g | NC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H6F3NO2
reactant | trifluoroacetic anhydride | 90 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-Methylamino-3-trifluoromethylbenzoic Acid | 2.2 g | CNC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C9H8F3NO2
